US06169090A
2-Acetyl-4-bromo-7-methoxyfuro[2,3-c]pyridine
A solution of 2-acetyl-7-methoxyfuro[2,3-c]pyridine (1.1 g) in acetonitrile (50 ml) was stirred at room temperature. N-Bromosuccinimide (1.0 g) was added and stirring continued overnight. The reaction was quenched by the addition of water (50 ml) and extracted with dichloromethane (3×50 ml). The combined organic extracts were washed with water (50 ml), dried over magnesium sulfate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 33% ethyl acetate in hexane gave the title compound (1.4 g) as a white solid.

reactant | 2-acetyl-7-methoxyfuro[2,3-c]pyridine | 1.1 g | C(C)(=O)C1=CC=2C(=C(N=CC2)OC)O1 | C10H9NO3
reactant | N-Bromosuccinimide | 1.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Acetyl-4-bromo-7-methoxyfuro[2,3-c]pyridine | 1.4 g | C(C)(=O)C1=CC=2C(=C(N=CC2Br)OC)O1 | C10H8BrNO3
